US04166115
2-(1-t-Butoxycarbonylethoxyimino)-2-(3-chloro-4-hydroxyphenyl)acetic acid (syn isomer) (2 g.) and 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (2 g.) were reacted according to similar manners to those of Examples 1 and 2 to give powder of 7-[2-(1-t-butoxycarbonylethoxyimino)-2-(3-chloro-4-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (3.6 g.).

reactant | 2-(1-t-Butoxycarbonylethoxyimino)-2-(3-chloro-4-hydroxyphenyl)acetic acid | 2 g | C(C)(C)(C)OC(=O)C(C)ON=C(C(=O)O)C1=CC(=C(C=C1)O)Cl | C15H18ClNO6
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
product | 7-[2-(1-t-butoxycarbonylethoxyimino)-2-(3-chloro-4-hydroxyphenyl)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 3.6 g | C(C)(C)(C)OC(=O)C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)C1=CC(=C(C=C1)O)Cl | C25H28ClN7O8S2
